US05952324
Step 5: (R)-[[3-[4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]azide
A solution of (R)-[[3-[4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]methanesulfonate (0.869 g, 2.26 mmol) in dry DMP (10 mL) was treated with solid NaN3 (0.732 g, 11.3 mmol) at ambient temperature under N2. The mixture was then heated to 65° C. and reaction progress monitored by TLC. After 7.5 h at this temperature, TLC analysis (5% MeOH/CHCl3) revealed the reaction to complete. The reaction mixture was diluted with EtOAc (100 mL), washed with H2O (3×15 mL) and brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give 0.692 g (92%) of the title compound as a tan solid. An analytical sample was prepared by recrystallization from 1:1 EtOc/hexane as an off-white solid with mp 101-102.5° C. and MS(EI) 333 (M+).

reactant | (R)-[[3-[4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]methanesulfonate | 2.26 mmol, 0.869 g | [C@@H]12OC[C@@H](N(C1)C1=C(C=C(C=C1)N1C(O[C@@H](C1)CCS(=O)(=O)[O-])=O)F)C2
reactant | NaN3 | 11.3 mmol, 0.732 g | [N-]=[N+]=[N-].[Na+]
reactant | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | (R)-[[3-[4-[(1S,4S)-2-oxa-5-azabicyclo[2.2.1]heptan-5-yl]-3-fluorophenyl]-2-oxo-5-oxazolidinyl]methyl]azide | 0.692 g, 92% | [C@@H]12OC[C@@H](N(C1)C1=C(C=C(C=C1)N1C(O[C@H](C1)CN=[N+]=[N-])=O)F)C2 | C15H16FN5O3
